US05310743
c) (2R*,4S*)-2-(4-Chlorobenzyl)-1-(3,5-dimethylbenzoyl)-N-acetyl-4-piperidinamine
0.61 ml of tin tetrachloride and 0.24 ml of acetic anhydride are added successively to a solution of 1.0 g of N-{5-(4-chlorophenyl)pent-1-en-4-yl}-N-ethoxymethyl-3,5-dimethylbenzamide in acetonitrile cooled to -20°. The reaction mixture is then stirred at -20° for 2 hours and at 25° for 1 hour, poured into saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic phase is separated off, dried over sodium sulfate and evaporated to dryness under reduced pressure. The crude title compound (orange oil) is purified by chromatography on silica gel with dichloromethane/methanol/25% strength ammonia solution (95:5:0.1) as mobile phase. TLC (dichloromethane/methanol/25% strength ammonia solution; 90:10:0.1): Rf =0.45; FD-MS: M+=398

reactant | tin tetrachloride | 0.61 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | acetic anhydride | 0.24 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-{5-(4-chlorophenyl)pent-1-en-4-yl}-N-ethoxymethyl-3,5-dimethylbenzamide | 1.0 g | ClC1=CC=C(C=C1)CC(CC=C)N(C(C1=CC(=CC(=C1)C)C)=O)COCC | C23H28ClNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetonitrile | C(C)#N | C2H3N
product | (2R*,4S*)-2-(4-Chlorobenzyl)-1-(3,5-dimethylbenzoyl)-N-acetyl-4-piperidinamine | ClC1=CC=C(C[C@H]2N(CC[C@@H](C2)NC(C)=O)C(C2=CC(=CC(=C2)C)C)=O)C=C1 | C23H27ClN2O2
